US07427613B2
Cyclopropyl-[2-(2,3-difluorophenyl)ethyl]amine
Synthesized according to typical procedures C and D from (2,3-difluorophenyl)-acetic acid and cyclopropylamine.

reactant | (2,3-difluorophenyl)-acetic acid | FC1=C(C=CC=C1F)CC(=O)O | C8H6F2O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-[2-(2,3-difluorophenyl)ethyl]amine | C1(CC1)NCCC1=C(C(=CC=C1)F)F | C11H13F2N
